US07863444B2
5-(4-Phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine (1.57 g) was dissolved in dry dimethylformamide (30 ml) and then sodium hydride (0.22 g of a 60% dispersion in mineral oil) was added with stirring. The mixture was stirred for 30 minutes and then isopropylsulphonyl chloride (0.74 g) was added and the mixture was stirred at ambient temperature for 18 hours. Water was added to the mixture until no further precipitation occurred. The solid was collected by filtration and purified by flash column chromatography on silica using dichloromethane/methanol (9:1) as the mobile phase to give a solid which was further purified by flash column chromatography on silica using ethyl acetate as the mobile phase to give 7-isopropylsulphonyl-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine, m.p. 162-162.5° C.

reactant | 5-(4-Phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | 1.57 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=CNC=2N=CN=C(C21)N | C18H14N4O
reactant | sodium hydride | [H-].[Na+]
reactant | isopropylsulphonyl chloride | 0.74 g | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
reactant | Water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 7-isopropylsulphonyl-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | C(C)(C)S(=O)(=O)N1C=C(C2=C1N=CN=C2N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C21H20N4O3S
